US07582791B2
Synthesis of n-butyl(S)-2-hydroxybutyrate
n-Butyl(S)-2-hydroxy-(S)-3-phenylthiobutyrate (60 mg) was dissolved in ethanol (2.0 mL). Celite (240 mg) and an ethanol solution (3.0 mL) of Raney nickel (360 mg) were sequentially added at room temperature to the solution, and the mixture was stirred at 80° C. for 10 hours. The reaction mixture was filtered through Celite, and the filtrate was added to water (20 mL), followed by extraction with diethyl ether (20 mL×3). The organic layers were combined, and the combined organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified through silica gel column chromatography (methylene chloride), to thereby yield colorless oil (36 mg, 100%).

reactant | n-Butyl(S)-2-hydroxy-(S)-3-phenylthiobutyrate | 60 mg | O[C@H](C(=S)OCCCC)[C@@H](C)C1=CC=CC=C1 | C14H20O2S
reactant | ethanol | 2.0 mL | C(C)O | C2H6O
reactant | ethanol | 3.0 mL | C(C)O | C2H6O
catalyst | Raney nickel | 360 mg | [Ni] | Ni
product | n-butyl(S)-2-hydroxybutyrate | 36 mg, 100% | O[C@H](C(=O)OCCCC)CC | C8H16O3
